US07754880B2
Preparation of ethyl 4-chloro-3-cyanophenylcarbamate (Intermediate having formula X)
A solution of ethyl chloroformate (3.68 g) in methylene chloride (5 ml) is added dropwise in about 20 minutes to a mixture of 5-amino-2-chlorobenzonitrile (5.2 g) and pyridine (2.77 g) in methylene chloride (75 ml), cooled to 0° C. and maintained in an inert atmosphere. At the end of the addition, the solution is stirred for 1 hour at 0° C. and is then brought to room temperature. At the end of the reaction, the mixture is poured into water (100 ml) and extracted with methylene chloride (2×80 ml); the organic phase is washed with water (2×80 ml), dried with sodium sulphate and concentrated under vacuum. 7.2 g of product are obtained.

reactant | ethyl chloroformate | 3.68 g | ClC(=O)OCC | C3H5ClO2
reactant | 5-amino-2-chlorobenzonitrile | 5.2 g | NC=1C=CC(=C(C#N)C1)Cl | C7H5ClN2
reactant | pyridine | 2.77 g | N1=CC=CC=C1 | C5H5N
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | ethyl 4-chloro-3-cyanophenylcarbamate | 7.2 g | ClC1=C(C=C(C=C1)NC(OCC)=O)C#N | C10H9ClN2O2
